US07728155B2
Treatment of 2-allyl-5,6,7,8-tetrahydronaphthalen-1-ol (18.48 g, 0.098 mol) with potassium carbonate (41.46 g, 0.300 mol), benzyl bromide (18.81 g, 0.110 mol), and tetrabutylammonium iodide (7.39 g, 0.020 mol) generally according to the procedure described for Intermediate 1 afforded 24.05 g (88%) of 2-allyl-5,6,7,8-tetrahydronaphthalen-1-yl benzyl ether as a pale yellow oil. Rf=0.39 (silica, ethyl acetate:hexanes 1:19); Anal. calcd. for C20H22O0.2H2O: C, 85.19; H, 8.01. Found: C, 84.95; H, 7.75.

reactant | 2-allyl-5,6,7,8-tetrahydronaphthalen-1-ol | 0.098 mol, 18.48 g | C(C=C)C1=C(C=2CCCCC2C=C1)O | C13H16O
reactant | potassium carbonate | 0.300 mol, 41.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.110 mol, 18.81 g | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium iodide | 0.020 mol, 7.39 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-allyl-5,6,7,8-tetrahydronaphthalen-1-yl benzyl ether | 24.05 g, 88% | C(C1=CC=CC=C1)OC1=C(C=CC=2CCCCC12)CC=C | C20H22O
